US08729061B2
(2S,3S)-3-Amino-N-cyclopropyl-2-hydroxybutanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate in the second step (A2).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
product | (2S,3S)-3-Amino-N-cyclopropyl-2-hydroxybutanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)C | InChI=1S/C7H14N2O2.2ClH/c1-4(8)6(10)7(11)9-5-2-3-5;;/h4-6,10H,2-3,8H2,1H3,(H,9,11);2*1H/t4-,6-;;/m0../s1
